US08071816B2
Part 1: Synthesis of CF3CH(OH)OCH2C2F5
This reaction was carried out in the same manner as described in Example 1 using charges of sulfuric acid (175 g), C2F5CH2OH (86.7 g, 0.578 mole) and trifluoroacetaldehyde methyl hemiacetal (Alfa Aesar, 50 g, 90% purity, 0.346 mole). The receiver gained 27.1 g in weight and this solution was used without purification in the next step.

reactant | sulfuric acid | 175 g | S(O)(O)(=O)=O | H2O4S
reactant | C2F5CH2OH | 0.578 mole, 86.7 g | C(F)(F)(C(F)(F)F)CO | C3H3F5O
reactant | trifluoroacetaldehyde methyl hemiacetal | 0.346 mole, 50 g | COC(C(F)(F)F)O | C3H5F3O2
product | CF3CH(OH)OCH2C2F5 | C(F)(F)(F)C(O)OCC(F)(F)C(F)(F)F | C5H4F8O2
